US07842688B2
d) 1-(3-Bromopropoxy)-3,5-difluorobenzene
Analogously to Example 91b, 0.98 g of 3,5-difluorophenol and 15.2 g of 1,3-dibromopropane are reacted. The title compound is obtained as a colourless oil. Rf=0.70 (1:6 EtOAc-heptane); Rt=5.13.

reactant | 3,5-difluorophenol | 0.98 g | FC=1C=C(C=C(C1)F)O | C6H4F2O
reactant | 1,3-dibromopropane | 15.2 g | BrCCCBr | C3H6Br2
product | 1-(3-Bromopropoxy)-3,5-difluorobenzene | BrCCCOC1=CC(=CC(=C1)F)F | C9H9BrF2O
